Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Allergies/ADRs on File
 
Attending: ___.
 
Chief Complaint:
Chest pain, LLE swelling
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old male with paroxysmal A fib and OSA
who presented to his PCP ___ 1 week of pleuritic chest pain and
LLE swelling, was sent to ___ for further workup, and was
transferred here for evaluation for possible thrombolysis.

He works on electric/telephone lines for ___. Because of the
inclement weather in ___ and ___, he has had many days
where he rides to a site and then sits in the car for 8 hours
without getting out. He reports that last ___, he
developed left lower chest pain ("like rib pain") that was
severe, ___ in intensity. He was severely limited in taking a
deep breath or in walking due to this pain. It worsened over the
next several days, to the point that he called out of work on
___ and stayed home over the weekend. Over the weekend,
while the chest pain resolved, he developed severe L calf pain,
primarily behind the knee which persisted over the weekend and
beginning of the week.

He presented to his PCP on ___ morning, ___, where he was
noted to have LLE swelling and shortness of breath, found to be
in AF with an elevated D dimer and a stat CTA Chest was ordered.
This showed diffuse bilateral PEs with concern for R heart 
strain
and he was sent to the ___.

At ___, he no longer had any LLE swelling and denied chest
pain, palpitations, lightheadedness, or shortness of breath. Due
to concern for R heart strain, the plan was made to transfer to 
a
center that could do catheter-directed therapy. There were no
beds in ___ and ultimately, he was transferred to ___ for
assessment and further care.

On arrival to the CCU, he is breathing comfortably on room air,
denies any chest pain, leg pain, lightheadedness, dizziness,
palpitations. He denies any fatigue, nausea, vomiting, or
weakness.

No known history of abnormal clotting or bleeding. Has not ever
had a colonoscopy.

 
Past Medical History:
PAST MEDICAL HISTORY:  
1. Cardiac Risk Factors  
- None

2. Cardiac History  
- Paroxysmal A Fib (CHADs-VASC 2). Not on AC

3. Other PMH  
- TIA
- s/p gastric lap band
- OSA
- Cholecystectomy

 
Social History:
___
Family History:
Unknown, as he is adopted.
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
===============================
VS: T 98, HR 98, BP 139/86, RR 16, 98%RA
GENERAL: Well developed, well nourished. Oriented x3. Mood,
affect appropriate. NAD, conversant, pleasant.
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple.
CARDIAC: Normal rate, regular rhythm. No murmurs, rubs, or
gallops.  
LUNGS: No chest wall deformities or tenderness. Respiration is
unlabored with no accessory muscle use. Breath sounds distant. 
No
adventitious breath sounds.  
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: Warm, well perfused. No clubbing, cyanosis, or
peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.  
 
DISCHARGE PHYSICAL EXAMINATION:
================================
GENERAL: Well developed, well nourished. Oriented x3. Mood,
affect appropriate. NAD, conversant, pleasant.
HEENT: Normocephalic, atraumatic. Sclera anicteric. PERRL. EOMI. 

NECK: Supple, JVP exam difficult given body habitus
CARDIAC: Irregular rhythm. No m/r/g.  
LUNGS: CTAB, no w/r/r
ABDOMEN: Soft, non-tender, non-distended. No hepatomegaly. No
splenomegaly.  
EXTREMITIES: WWP. No clubbing, cyanosis, or peripheral edema.  
SKIN: No significant skin lesions or rashes.  
PULSES: Distal pulses palpable and symmetric.

 
Pertinent Results:
ADMISSION LABS
===================
___ 01:48PM BLOOD WBC-8.6 RBC-4.71 Hgb-15.3 Hct-44.3 MCV-94 
MCH-32.5* MCHC-34.5 RDW-11.9 RDWSD-42.0 Plt ___
___ 01:48PM BLOOD ___ PTT-31.9 ___
___ 01:48PM BLOOD Glucose-93 UreaN-14 Creat-0.9 Na-139 
K-4.7 Cl-101 HCO3-23 AnGap-15
___ 01:48PM BLOOD Calcium-8.9 Phos-3.4 Mg-2.1

DISCHARGE LABS
===================
___ 06:50AM BLOOD WBC-7.3 RBC-4.64 Hgb-15.0 Hct-44.3 MCV-96 
MCH-32.3* MCHC-33.9 RDW-12.0 RDWSD-41.7 Plt ___
___ 06:50AM BLOOD Plt ___
___ 06:50AM BLOOD Glucose-88 UreaN-13 Creat-1.0 Na-142 
K-5.1 Cl-103 HCO3-29 AnGap-10
___ 02:34AM BLOOD ALT-34 AST-21 LD(LDH)-244 AlkPhos-84 
TotBili-0.8
___ 06:50AM BLOOD Calcium-9.1 Phos-3.8 Mg-2.2

IMAGING/STUDIES:
===================
+ EKG ___: Atrial fibrillation at normal rate. Normal axis.
Normal intervals.
 
+ TTE (bedside): Formal TTE to follow. On bedside TTE LV 
appeared
to possibly have reduced EF and RV appeared grossly normal.

+ CTA ___ (___:
1. Findings compatible with pulmonary emboli involving both the
right and left main pulmonary arteries as well as the segmental
and subsegmental branches extending to all lobes. In addition,
there are findings concerning for right heart strain / failure
including slight flattening of the interventricular septum at 
the
level of the ventricles as well as reflux of contrast into the
hepatic veins and intrahepatic inferior vena cava suggestive of
right heart failure.
 
2. Pleural-based opacity in the left lower lobe laterally as 
well
as right middle lobe may reflect pulmonary infarcts. Mild patchy
density in the left lower lobe posteriorly may be due to
subsegmental atelectasis and/or additional evolving infarct.
Follow-up to resolution can be performed as clinically 
indicated.
 
3. Scattered pulmonary nodules, the largest is a 6 mm 
groundglass
nodule in the left upper lobe along the left major fissure. A
follow-up chest CT in ___ months could be performed to assess 
for
interval change/resolution.
 
4. Fluid in the thoracic esophagus may be due to incomplete
emptying versus gastroesophageal reflux disease. Given the
presence of a gastric band, this may be related to acquired
reflux related to the degree of lap band tightness..
 
5. Borderline aneurysmal dilatation of the ascending aorta
measuring 4.0 cm AP x 3.7 cm transverse.

+ LENIs ___ (___:
Deep venous thrombosis in the left lower extremity involving the
left femoral, popliteal and gastrocnemius veins.
 
Brief Hospital Course:
Mr. ___ is a ___ yo male with a history of paroxysmal AF on 
aspirin, obesity s/p lap band ___, tobacco dependence, OSA on 
CPAP, who presented to ___ on ___ with progressive 
dyspnea, LLE swelling, and pleuritic CP. BP ___, HR 110-120, 
dimer>4000, CTA with bilateral diffuse PE involving both the L 
and R main PAs and evidence of R heart strain. He was 
transferred to ___ for further management. 

ACUTE ISSUES  
=============
# PE, Submassive: 
The chronicity of the patient's symptoms are not entirely 
consistent with a DVT embolized to a PE. However, CTA clearly 
shows bilateral PE and suggestive of possible R heart strain, 
however trops negative x2, BNP not significantly elevated, and 
EKG without signs of R heart strain. LENIs showed large DVT 
extending into the L thigh. It is unclear if this was provoked, 
as the patient states he had been "sitting in his car" more than 
normal, but it is unclear if this would be a significant 
provoking factor. Notably, there were small pulmonary nodules 
seen on CT. In addition, the patient has not had a colonoscopy. 
He was on a heparin drip originally but was started on apixaban. 
TTE on ___ revealed mild-moderate global systolic dysfunction 
and beat-to-beat variability in EF, and a mildly dilated and 
hypokinetic right ventricle. He was given 10mg IV Lasix to help 
offload the right ventricle. His global systolic LV dysfunction 
was attributed to likely weeklong tachycardia induced 
cardiomyopathy, and catheterization was deferred in this 
setting. He will have follow up with cardiology and will have a 
repeat echo scheduled in ___ months to reassess LV function.

# Atrial Fibrillation, Paroxysmal
The patient had a brief episode of AF after his cholecystectomy. 
He was not on anticoagulation at home. CHADs-VASC2 of ___. After 
arriving to his PCP's office on ___ , he was found to be in 
A.fib.  His rate was appropriate without NHBK. He was discharged 
on Apixaban for his PE as above, but should continue this 
indefinitely for stroke prevention.

# Diminished LVEF
Noted to have EF of ___ on TTE on ___ with global left 
ventricular hypokinesis. Unclear etiology, however low concern 
for ischemic given non-regional and negative trops. More likely 
secondary to rate related cardiomyopathy given pt does not have 
symptoms with AFib, and was tachycardic on admission. Has likely 
been tachycardic for > 1 week given symptom duration. Plan for 
f/u echo with cardiology in ___ months to assess for recovery 
given better rate control at this time. 
 
CHRONIC ISSUES  
===============
# OSA: Continued home CPAP
TRANSITIONAL ISSUES:
=====================
[]Please obtain BMP in one week given newly on ACE inhibitor
[]Patient had small pulmonary nodules found on CT chest, please 
repeat CT chest in ___ months
[]Colonoscopy for preventive colon cancer screening 

[]TTE: Mild left ventricular hypertrophy with mild-moderate 
global systolic dysfunction and beat-to-beat variability in EF. 
Mildly dilated and hypokinetic right ventricle) with normal 
septal position. Mild aortic regurgitation - consider obtaining 
repeat echo to ensure resolution of likely rate related global 
LV hypokinesis in 4 weeks
[]Consider further workup for cardiomyopathy if persistent low 
EF 

[]Left calf measurement on discharge: 39cm

NEW medications:
- Apixaban 10 mg PO/NG BID Duration: 7 Days (Last dose at THIS 
dosage is ___
- Apixaban 5 mg PO/NG BID Start: Future Date - ___, 
Lisinopril 5 mg PO/NG DAILY 

#CODE: Full, confirmed
#CONTACT/HCP: ___ (___)
#CODE: Full, confirmed
#CONTACT/HCP: ___ (___)
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Multivitamins 1 TAB PO DAILY 
2. Aspirin 81 mg PO DAILY 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID Duration: 7 Days 
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth Twice daily 
Disp #*12 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth Twice daily 
Disp #*60 Tablet Refills:*0 
3.  Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth Daily Disp #*30 Tablet 
Refills:*0 
4.  Aspirin 81 mg PO DAILY  
5.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIANGNOSES:
===================
1. Submassive PE
2. Paroxysmal Atrial Fibrillation

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a pleasure taking part in your care here at ___!  
 
Why was I admitted to the hospital?  
- You were having severe worsening chest pain, left calf pain, 
and shortness of breath.
 
What was done for me in the hospital?  
- You were found to have blood clots in your lungs. You were 
started on a blood thinner that you will continue when you leave 
the hospital called Apixaban. It is very important that you 
continue to take this medication as prescribed.
- You were also found to have an irregular heart rhythm called 
atrial fibrillation. The blood thinner you placed on will also 
help treat this condition. Please note you are on 10 mg twice a 
day (___) and then 5 mg twice a day after that.
- You had an imaging study of your heart which showed that the 
pump function was not as effective as it should be, you will 
have follow up with a Cardiologist and should have this study 
repeated at that time to make sure the pump function improves
 
What should I do when I leave the hospital?  
- Please take all of your medicines and attend all of your 
follow-up appointments.  
- Please repeat labs in a week when you see your primary care 
doctor, given you are on a new blood pressure medication (Called 
Lisinopril)
- Please do not smoke.

NEW medications:
- Apixaban 10 mg PO/NG BID Duration: 7 Days (Last dose at THIS 
dosage is ___
- Apixaban 5 mg PO/NG BID Start: Future Date - ___, 
- Lisinopril 5 mg PO/NG DAILY 

**You need to be seen by Cardiologist in 1 week. Please discuss 
making these arrangements with your primary care physician. The 
___ and Womens/Mass General Health Care Center at ___ 
new patient line for cardiology is ___.

We wish you the best of luck in your health!  
 
Sincerely,  
Your ___ Treatment Team  
 
Followup Instructions:
___